US04775675
3-Acetyl-5,5-dimethyl-2(R)-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 5.74 g (30 mmoles) of N-acetyl-D-penicillamine and 3.2 ml of 4-fluorobenzaldehyde in 20 ml of ether saturated with gaseous hydrogen chloride is stirred. After 5 to 6 minutes an oil separates which becomes crystalline after 30 minutes on rubbing. The precipitate is filtered out and washed with ether to give the title acid in a yield of 7.81 g (87.1%) which can be recrystallized from ethyl acetate, m.p. 144°-146° C., [α]D20 =+206.9°.

reactant | N-acetyl-D-penicillamine | 30 mmoles, 5.74 g | C(C)(=O)N[C@H](C(C)(C)S)C(=O)O | C7H13NO3S
reactant | 4-fluorobenzaldehyde | 3.2 ml | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | hydrogen chloride | Cl | ClH
solvent | ether | 20 ml | CCOCC | C4H10O
product | 3-Acetyl-5,5-dimethyl-2(R)-(4-fluorophenyl)-thiazolidine-4(S)-carboxylic acid | C(C)(=O)N1[C@H](SC([C@@H]1C(=O)O)(C)C)C1=CC=C(C=C1)F | C14H16FNO3S
